US07947834B2
5.82 ml of a 0.2N solution of hydrochloric acid in ether are added to a 25 ml round-bottomed flask comprising 0.18 g of 4-[(3-(pyridin-3-yl)pyrrolidin-1-yl)carbonyl]-3,4-dihydro-2H-1,4-benzoxazine. Stirring is maintained for 10 min. After evaporating, the residue is taken up in ether. The precipitate is filtered off and then dried under vacuum. 0.12 g of 4-[(3-(pyridin-3-yl)pyrrolidin-1-yl)carbonyl]-3,4-dihydro-2H-1,4-benzoxazine hydrochloride is obtained.

reactant | hydrochloric acid | Cl | ClH
reactant | 4-[(3-(pyridin-3-yl)pyrrolidin-1-yl)carbonyl]-3,4-dihydro-2H-1,4-benzoxazine | 0.18 g | N1=CC(=CC=C1)C1CN(CC1)C(=O)N1CCOC2=C1C=CC=C2 | C18H19N3O2
solvent | ether | CCOCC | C4H10O
product | 4-[(3-(pyridin-3-yl)pyrrolidin-1-yl)carbonyl]-3,4-dihydro-2H-1,4-benzoxazine hydrochloride | 0.12 g | Cl.N1=CC(=CC=C1)C1CN(CC1)C(=O)N1CCOC2=C1C=CC=C2 | InChI=1S/C18H19N3O2.ClH/c22-18(21-10-11-23-17-6-2-1-5-16(17)21)20-9-7-15(13-20)14-4-3-8-19-12-14;/h1-6,8,12,15H,7,9-11,13H2;1H
